Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain  
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
History of Present Illness: Ms. ___ is a ___ woman 
who was in her usual state of health until 2 weeks ago when she 
started to notice progressive right-sided and central chest pain 
which is typically worse with movement. She had run a mini 
triathlon prior to this and thought that she may have provoked 
an episode of costochondritis which she has had in the past. She 
visited her PCP office and had temporary relief with pain 
medication but noticed progressive worsening of pain and dyspnea 
which prompted her to re-present to another provider at her PCP 
office. She had an x-ray of her sternum which did not reveal 
anything abnormal and was treated as though she had 
costochondritis. Because of worsening symptoms and concern over 
her heart she presented to the ___ ED.

 In the ED she reported that she has not had significant 
exertional dyspnea. She reports no family history of cardiac 
disease, or venous thromboembolism. She reported initially that 
she was anxious and was mildly tachycardic, but that the pain 
was very similar to prior episodes of costochondritis. She was 
taking alleve with some relief of symptoms but had progressive 
worsening and growing concern which prompted her presentation to 
the ED. She reported that she had in fact had some drenching 
sweats for the past several nights, but has not had a productive 
cough. She spiked a fever (100.5) while in the ED and a CTA 
revealed significant bibasilar pleural effusions, consolidation, 
and pericardial effusion concerning for pneumonia so decision 
was made to admit to medicine for further workup and treatment.  

 
 In the ED, initial vital signs were: Pain ___ T 98.4 HR 104 BP 
134/81 RR 18 O2Sat 97% RA  

 - Labs were notable for:  
 Leukocytosis to 28.3, thrombocytosis to 499, anemia with H/H 
9.___.3  
 UA with Moderate leuk, moderate blood, negative nitrite, few 
bacteria, RBC 16, WBC 16  
 - Studies performed include:  
 CXR, CTA chest, blood cultures x2
 EKG: Her EKG is sinus. The ST segments show very diffuse 
flattening of T waves in essentially all leads relative to 
prior, but without reciprocal depression.  

 - Patient was given:  
 ___ 10:56 IV Ketorolac 15 mg
 ___ 10:56 IV Lorazepam 1 mg   
 ___ 10:56 IVF 1000 mL NS 1000 mL   
 ___ 14:27 IV Lorazepam 1 mg  
 ___ 16:07 IV CeftriaXONE 1 gm   
 ___ 16:07 PO/NG Acetaminophen 650 mg 
 ___ 19:56 IVF 1000 mL NS 1000 mL 

 - Vitals on transfer: Pain ___ T 98.9 HR 86 BP 110/77 RR 18 
O2Sat 96% RA  

 Upon arrival to the floor, the patient reports the following:

First incident of chest pain in ___ during snow 
shoveling. She was evaluated by her PCP office with normal ECG 
and recovered in ___ weeks with supportive care, presumed 
chostochondritis. ___ she had recurrence of symptoms 
while vacationing in ___ with same resolution pattern. She had 
yet another recurrence while traveling in ___ in ___ in 
the setting of carrying a heavy backpack which yet again 
resolved in ___ weeks. 3 weeks prior to admission, she 
participated in a mini-triathalon, 2 weeks ago she helped her 
husband carry a television inside their home and had recurrence 
of the chest pain. At first it was intermittent, well controlled 
with 800mg ibuprofen. 8 days prior to admission, she reports one 
night of intense palpitations. Since 4 days prior to admission, 
she repots worsening fatigue and dyspnea on exertion, worse when 
bending over or laying down. For the past 2 nights she has woken 
up drenched in sweat. Additionally, the chest pain has worsened 
and is no longer controlled by ibuprofen and acetaminophen 
alternating. She developed a non-productive cough only on day of 
admission. No rashes or myalgias or arthralgias. 

Of note, patient is on day 5 of her most recent monthly 
menstrual cycle of a typical 5 day cycle during which she has 
typically bleeds heavily for 3 days, going through a pad/tampon 
every 1.5 hours.
 
 
Past Medical History:
 "Costochondritis" 
 ___ phenomenon since ___ years ago
 Seasonal affective disorder
 
Social History:
___
Family History:
Father with ___
MGM died at ___ unknown
MGF died unknown from alcoholism
PGM with parkinsonism and breast cancer
PGF died from unknown cancer
Maternal aunt with breast cancer age ___
Maternal uncle with throat cancer age ___
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=====================
 Vitals- 98.3 119/67 93 20 94%RA
 GENERAL: AOx3, NAD  
 HEENT: NCAT, EOMI, PERRLA, mildly jaundiced mucous membranes, 
no tonsillar adenopathy
NECK: Thyroid is normal in size and texture, no nodules.
 CARDIAC: Regular rhythm, normal rate, rub most prominent at 
RUSB. No JVD.  
 LUNGS: Bibasilar breath sounds decreased with crackles, 
otherwise clear
 BACK: Skin. no spinous process tenderness. no CVA tenderness.  
 ABDOMEN: NABS, nondisnteded, TTP in RUQ and with spleen 
palpation, possible hepatomegaly 
 RECTAL: normal tone, light brown stool, guaiac negative
 EXTREMITIES: No clubbing, cyanosis, or edema, no sign of 
atrophy/hypertrophy. Pulses DP/Radial 2+ bilaterally.  
 SKIN: No evidence of ulcers, rash or lesions suspicious for 
malignancy. Small tattoo on sacral region
 NEUROLOGIC: CN3-12 intact. ___ strength througout. Normal 
sensation. No ataxia, dysmetria, disdiadochokinesia. Gait 
untested.
 LYMPH: no cervical, axillary, supraclavicular or inguinal 
lymphadenopathy

DISCHARGE PHYSICAL EXAM
======================
Vitals: 97.8 PO 102 / 57 64 16 96 RA  
GENERAL: AOx3, NAD  
HEENT: NCAT, EOMI, PERRLA, MMM, no tonsillar adenopathy, 
elevated JVD
NECK: Thyroid is normal in size and texture, no nodules.
CARDIAC: RRR, S1 + S2 present no mrg
LUNGS: Reduced lung sounds ___ up lung field on R, ___ up lung 
field on left
BACK: No spinous process tenderness. no CVA tenderness.  
ABDOMEN: NABS, nondistended, TTP in RUQ, no rebound/guarding, no 
HSM
EXTREMITIES: WWP, PPP, no ___ edema. 
SKIN: No evidence of ulcers, rash or lesions suspicious for 
malignancy. Small tattoo on sacral region. No splinter 
hemorrhages.
NEUROLOGIC: CN3-12 intact. ___ strength througout. Normal 
sensation. No ataxia, dysmetria, disdiadochokinesia. Gait 
untested.
LYMPH: no cervical, axillary, supraclavicular or inguinal 
lymphadenopathy
 
 
Pertinent Results:
ADMISSION LABS
=============
___ 01:48PM BLOOD WBC-28.3* RBC-3.29* Hgb-9.9* Hct-31.3* 
MCV-95 MCH-30.1 MCHC-31.6* RDW-13.8 RDWSD-48.6* Plt ___
___ 01:48PM BLOOD Neuts-89.9* Lymphs-2.8* Monos-6.3 
Eos-0.1* Baso-0.1 Im ___ AbsNeut-25.43* AbsLymp-0.78* 
AbsMono-1.77* AbsEos-0.03* AbsBaso-0.04
___ 01:48PM BLOOD Plt ___
___ 10:00AM BLOOD Glucose-77 UreaN-8 Creat-0.6 Na-138 K-4.0 
Cl-99 HCO3-24 AnGap-19
___ 04:49PM BLOOD ALT-16 AST-11 LD(LDH)-201 AlkPhos-150* 
TotBili-0.3 DirBili-<0.2 IndBili-0.3
___ 04:49PM BLOOD GGT-62*
___ 10:00AM BLOOD cTropnT-<0.01
___ 04:49PM BLOOD Albumin-3.1* Calcium-8.6 Phos-3.8 Mg-1.8 
UricAcd-2.5 Iron-14*
___ 04:49PM BLOOD calTIBC-222* Hapto-530* Ferritn-502* 
TRF-171*
___ 04:49PM BLOOD TSH-1.5
___ 05:06PM BLOOD Lactate-1.4

MICRO
=====

___ Legionella: negative
___ Blood culture: no growth to date
___ Lyme: negative
___ HIV: AB and VL negative

___ Anaplasma: pending
___ Streptococcus: pending

NOTABLE LABS
===========

___ ESR: ___ CRP: greater than assay
___ ___: Positive, 1:40
___ dsDNA negative

IMAGES
======

CXR ___:
Bilateral pneumonia right greater than left

CTA Chest ___:  
1. No evidence of pulmonary embolism or aortic abnormality.  
2. Bilateral pleural and pericardial effusions with 
consolidation and volume loss, very concerning for bibasilar 
pneumonia. Follow-up after the resolution of symptoms is 
recommended.  

TTE ___:
Normal left ventricular cavity size with preserved regional and 
global biventricular systolic function. Mild right ventricular 
cavity dilation. Borderline pulmonary artery systolic 
hypertension. 

DISCHARGE LABS
=============
___ 08:00AM BLOOD WBC-9.9 RBC-3.69* Hgb-11.1* Hct-34.3 
MCV-93 MCH-30.1 MCHC-32.4 RDW-14.2 RDWSD-48.0* Plt ___
___ 08:00AM BLOOD Plt ___
___ 08:00AM BLOOD ___ PTT-35.8 ___
___ 08:00AM BLOOD Glucose-82 UreaN-8 Creat-0.6 Na-141 K-4.4 
Cl-102 HCO3-27 AnGap-16
___ 08:00AM BLOOD Calcium-9.5 Phos-4.3 Mg-2.3
 
Brief Hospital Course:
Ms. ___ is a ___ year old woman w/ a PMH of ___ and 
multiple recurrent episodes of chest pain attributed to 
costochondritis who presented with worsening dyspnea and chest 
pain for over  2 weeks prior to admission with  2 episodes of 
night sweats and a non-productive cough, febrile to 100.5 in ED, 
with significant leukocytosis with CTA chest revealing bilateral 
pleural effusions and consolidations consistent with CAP.

#Pneumonia. Pt presented with leukocytosis to 28.5 with 
associated fever to 100.5 in the ED. CTA showed pleural 
effusions R>L with a consolidative process c/f pneumonia. 
Presentation was c/w community acquired PNA. Pleural effusions 
are likely reactive ___ PNA and less likely ___ autoimmune 
process given ___ weakly positive (1:40) and negative dsDNA, 
also less likely malignancy. No c/f TB given no symptoms of 
weight loss/hemoptysis and no exposure hx or travel to endemic 
areas. Leukocytosis down-trending with antibiotics. Patient 
initially treated with ceftriaxone/doxycycline out of c/f 
tick-borne illness however given negative Lyme, transitioned to 
augmentin/azithromycin for PO regimen 5 days total. Ambulatory 
sat was 94% at time of discharge. Of note, interventional 
pulmonology was consulted and the decision was made not to do 
thoracentesis given small size of effusion on US and therefore 
high risk for pneumothorax and patien'ts clinical improvement.

#Elevated ESR/CRP. Despite low c/f autoimmune process as primary 
pulmonary process, significantly elevated CRP/ESR (greater than 
expected for PNA) and history of 
___ costochondritis was concerning. 
Would recommend reechecking ESR/CRP after resolution of 
pneumonia, consider sending RF, anti-CCP, C3/C4 as outpatient if 
ESR/CRP persistently elevated or new sxs develop consistent with 
rheumatologic disease.

#RUQ tenderness: Likely ___ rib pain from pleural effusion R>L. 
LFTs notable only for elevated AlkP/GGT which is likely acute 
phase reactant. 

#Pericardial Effusion: Noted on CTA in ED. TTE ___ showed 
trivial/physiologic pericardial effusion, thus low c/f 
development of tamponade. 

#Proteinuria. Resolved. Kidney function normal throughout stay,  
BUN/Cr ___ on admission. U/A in ED showed proteinuria (also 
hematuria possibly contaminant from menstruation). Repeat U/A on 
___ showed no proteinuria or hematuria. 

#Anemia: Guaiac in ED was negative and hemolysis labs were 
negative. Fe studies c/f AOCD. H/H improving during admission to 
___ on ___, though per ___ ___ atrius records she did not 
have anemia. 

#Coagulopathy. INR 1.4 on admission, improved to 1.2 on ___

#Thrombocytosis. Likely acute phase reactant

#Seasonal affective disorder. Pt was continued on home 
fluoxetine 

TRANSITIONAL ISSUES:
[] Patient will complete 3 additional days of 
Augmentin/Azithromycin (5 total) 
[] Please obtain repeat imaging iin ___ weeks to ensure 
resolution of this pneumonia. If pleural effusion has not 
resolved, please consult ___ interventional pulmonology clinic 
___
[] If patient continues to experience symptoms or imaging 
findings suggest persist effusions, please consider repeat 
ESR/CRP and more extensive rheumatologic work-up (including 
complement, anti-CCP, RF)
[] F/u Strep, Anaplasma 

CODE: Full
EMERGENCY CONTACT: Husband, ___ ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. FLUoxetine 10 mg PO DAILY 
2. Ibuprofen 800 mg PO Q8H:PRN Pain - Mild 
3. Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild 
4. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H Duration: 3 Days 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tab by mouth 
twice a day Disp #*6 Tablet Refills:*0 
2.  Azithromycin 250 mg PO Q24H Duration: 3 Days 
RX *azithromycin 250 mg 1 tablet(s) by mouth once a day Disp #*3 
Tablet Refills:*0 
3.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild  
4.  FLUoxetine 10 mg PO DAILY  
5.  Ibuprofen 800 mg PO Q8H:PRN Pain - Mild  
6.  Multivitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
Pneumonia
Pleural Effusions

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure to care for you at ___.

You were admitted for shortness of breath, fever and chest pain 
and found to have fluid in your lungs (a pleural effusion) and 
signs of pneumonia. You were treated with antibiotics and this 
improved. Please follow-up with your outpatient primary care 
physicians to ensure that this resolves.

Best wishes,

Your ___ Team
 
Followup Instructions:
___